US07939661B2
Step 2: Piperidin-4-yl-pyridin-3-yl-amine dihydrochloride (Intermediate A1)
A solution of 4-(pyridin-3-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (1.37 g, 5.00 mmol) in dioxane (20 mL) and 4 M HCl in dioxane (20 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 178.3 [M+H]+.

reactant | 4-(pyridin-3-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 5.00 mmol, 1.37 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC=1C=NC=CC1 | C15H23N3O2
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | Piperidin-4-yl-pyridin-3-yl-amine dihydrochloride | Cl.Cl.N1CCC(CC1)NC=1C=NC=CC1 | InChI=1S/C10H15N3.2ClH/c1-2-10(8-12-5-1)13-9-3-6-11-7-4-9;;/h1-2,5,8-9,11,13H,3-4,6-7H2;2*1H
